US04245994
256 g naphthalene (2.0 m) and 200 g sulfuric acid 98% (2.0 m) were charged to a reactor and mixed. The mixture was then heated rapidly to 150° C. and agitated at 150° C. for 2 hours. Then 100 g sulfuric acid 98% was added and the mixture agitated for an additional hour to obtain the naphthalenesulfonic acid.

reactant | naphthalene | 256 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sulfuric acid | 200 g | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 100 g | S(O)(O)(=O)=O | H2O4S
product | naphthalenesulfonic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
